US06455528B1
(4) Synthesis of 1-(4-Fluoro-2-hydroxyphenyl)piperazine Dihydrochloride
1-Acetyl-4-(4-fluoro-2-hydroxyphenyl)piperazine (0.64 g) was dissolved in a 1.2N aqueous hydrochloric acid solution (16 ml) and refluxed under heating for 7 days. The reaction mixture was concentrated under reduced pressure to give a pale-brown solid. This solid was recrystallized from methanol-ethyl acetate to give the title compound (0.65 g) as pale-brown crystals.

reactant | 1-Acetyl-4-(4-fluoro-2-hydroxyphenyl)piperazine | 0.64 g | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)O | C12H15FN2O2
reactant | hydrochloric acid | 1.2N, 16 ml | Cl | ClH
product | 1-(4-Fluoro-2-hydroxyphenyl)piperazine Dihydrochloride | 0.65 g | Cl.Cl.FC1=CC(=C(C=C1)N1CCNCC1)O | InChI=1S/C10H13FN2O.2ClH/c11-8-1-2-9(10(14)7-8)13-5-3-12-4-6-13;;/h1-2,7,12,14H,3-6H2;2*1H
